US08487093B2
Step 1: (2S,5R)-6-(Benzyloxy)-N-(2-methoxypyridin-4-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (38.9 mg, 0.141 mmol) in dry dichloromethane (2 mL) was added triethylamine (0.049 mL, 0.352 mmol), 2-chloro-1-methylpyridinium iodide (53.3 mg, 0.209 mmol), and 2-methoxy-4-aminopyridine (20.2 mg, 0.163 mmol) sequentially at room temperature under nitrogen. The reaction was then heated to 50° C. for 1.5 hours. LC/MS showed reaction complete. The reaction mixture was concentrated and purified by HPLC on a 30×100 mm Waters Sunfire column to afford the title compound as an orange solid after lyophilization.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.141 mmol, 38.9 mg | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | triethylamine | 0.352 mmol, 0.049 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.209 mmol, 53.3 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 2-methoxy-4-aminopyridine | 0.163 mmol, 20.2 mg | COC1=NC=CC(=C1)N | C6H8N2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2S,5R)-6-(Benzyloxy)-N-(2-methoxypyridin-4-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2=CC(=NC=C2)OC | C20H22N4O4
